US08492582B2
Cesium carbonate (0.14 g), aniline (0.030 mL), tris(dibenzylideneacetone)dipalladium(0) (2 mg), palladium(II) acetate (1 mg), and 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (5 mg) were added to a toluene (2.5 mL) solution of tert-butyl 4-bromo-2-(5-phenylpyridine-3-carboxamido)benzoate (0.10 g), followed by heating to reflux under a nitrogen atmosphere for 1 hour and 10 minutes. The reaction mixture was cooled to room temperature, and then ethyl acetate and a 10% aqueous solution of citric acid were added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 91-80% hexane/ethyl acetate] to obtain tert-butyl 4-anilino-2-(5-phenylpyridine-3-carboxamido)benzoate.

reactant | Cesium carbonate | 0.14 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | aniline | 0.030 mL | NC1=CC=CC=C1 | C6H7N
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 5 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | tert-butyl 4-bromo-2-(5-phenylpyridine-3-carboxamido)benzoate | 0.10 g | BrC1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1 | C23H21BrN2O3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | palladium(II) acetate | 1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4-anilino-2-(5-phenylpyridine-3-carboxamido)benzoate | N(C1=CC=CC=C1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1 | C29H27N3O3
